US05335303
A mixture of 1.7 g of ethyl 3-nitro-4-[(R)-2-octyloxy]benzoate and 50 ml of ethyl alcohol was hydrogenated over 0.1 g of platinum(II) oxide until the uptake of hydrogen had finished. The catalyst was filtered off and the filtrate was concentrated. Chromatography of the residue on silica gel with dichloromethane gave 1.5 g of ethyl 3-amino-4-[(R)-2-octyloxy]benzoate as a colourless oil.

reactant | ethyl 3-nitro-4-[(R)-2-octyloxy]benzoate | 1.7 g | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1O[C@H](C)CCCCCC | C17H25NO5
reactant | hydrogen | [H][H] | H2
catalyst | platinum(II) oxide | 0.1 g | [Pt]=O
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | ethyl 3-amino-4-[(R)-2-octyloxy]benzoate | 1.5 g | NC=1C=C(C(=O)OCC)C=CC1O[C@H](C)CCCCCC | C17H27NO3
